US04115575
A solution of 12.2 g of m-chloroperbenzoic acid in 100 ml of dichloromethane is added dropwise over the course of approx. 10 minutes, whilst stirring, to a solution of 10 g of crude 3-(2,3-epoxy-propoxy)-6-methyl-pyridine in 100 ml of dichloromethane, the temperature of the solution rising to 32° C. The reaction mixture is stirred for a further 30 minutes and is then extracted with 40 ml of saturated potassium bicarbonate solution, dried and evaporated in vacuo. 3-(2,3-Epoxy-propoxy)-6-methylpyridine-1-oxide, thus obtained, is used further in the crude state.

reactant | m-chloroperbenzoic acid | 12.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-(2,3-epoxy-propoxy)-6-methyl-pyridine | 10 g | O1C(COC=2C=NC(=CC2)C)C1 | C9H11NO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(2,3-Epoxy-propoxy)-6-methylpyridine-1-oxide | O1C(COC=2C=[N+](C(=CC2)C)[O-])C1 | C9H11NO3
